US07728025B2
(Step 3) Production of 2,2,2-trifluoro-N-(5-fluoro-2-nitro-4-(1-(trifluoroacetyl)pyrrolidin-2-yl)phenyl)acetamide
100 ml of fuming nitric acid was added to 28 g of 2,2,2-trifluoro-N-(3-fluoro-4-(1-(trifluoroacetyl)pyrrolidin-2-yl)phenyl)acetamide with cooling with ice, and the reaction liquid was stirred at room temperature for 1 hour. Water with ice was added to the reaction liquid to dilute it, then extracted with ethyl acetate, washed with saturated saline, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=10/1) to obtain the entitled compound as a yellow oily substance.

reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,2,2-trifluoro-N-(3-fluoro-4-(1-(trifluoroacetyl)pyrrolidin-2-yl)phenyl)acetamide | 28 g | FC(C(=O)NC1=CC(=C(C=C1)C1N(CCC1)C(C(F)(F)F)=O)F)(F)F | C14H11F7N2O2
solvent | Water | O | H2O
product | 2,2,2-trifluoro-N-(5-fluoro-2-nitro-4-(1-(trifluoroacetyl)pyrrolidin-2-yl)phenyl)acetamide | FC(C(=O)NC1=C(C=C(C(=C1)F)C1N(CCC1)C(C(F)(F)F)=O)[N+](=O)[O-])(F)F | C14H10F7N3O4
